US07598386B2
Intermediate 1 (2.5 g, 8.3 mmol) was dissolved in dimethylformamide (6 mL), and added dropwise to a suspension of 60% sodium hydride in mineral oil (635 mg 16.6 mmol) in dimethylformamide (6 mL). When the effervescence had ceased the solution was treated with a solution of N—Boc-bis-(2-chloroethyl)amine (3.75 g, 12 mmol) in dimethylformamide (3 mL). The mixture was stirred at r.t. for 36 hrs. Water (800 mL) was added and the solution washed with ethyl acetate (2×500 mL). The organic phase washed with brine (500 mL), dried (MgSO4) and evaporated. The clear oil obtained was purified by column chromatography on silica gel eluting with 5-20% ethyl acetate in hexanes. The oil obtained was then further purified by column chromatography on silica gel eluting with dichloromethane to give the Boc-piperidine. 1H NMR (CDCl3) 7.41-7.34 (4H, m), 7.13-7.05 (2H, m), 6.91-6.83 (1H, m), 4.25-4.15 (2H, m), 2.72-2.56 (4H, m), 2.34-2.23 (2H, m) and 1.43 (9H, s)

reactant | sodium hydride | [H-].[Na+]
reactant | N—Boc-bis-(2-chloroethyl)amine | 12 mmol, 3.75 g | C(=O)(OC(C)(C)C)N(CCCl)CCCl | C9H17Cl2NO2
reactant | Water | 800 mL | O | H2O
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Boc-piperidine | C(=O)(OC(C)(C)C)N1CCCCC1 | C10H19NO2
